US06872833B2
To a stirred suspension of 450 mg (1.69 mmol) (+)-7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-ylamine and 0.41 ml (5.07 mmol) pyridine in 10 ml dichloromethane at 0° C. was added 0.28 ml (2.20 mmol) phenyl chloroformate and stirring continued at room temperature for 16 h. The reaction mixture was then poured into saturated aqueous sodium bicarbonate solution and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (1/1 acetone/heptane) followed by trituration in ether and hexane afforded 630 mg (96%) (+)-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-carbamic acid phenyl ester as a white solid. [α]D20=+13.6° (c=0.32, CHCl3), ES-MS m/e (%):387 (M+H+, 100).

reactant | (+)-7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-ylamine | 1.69 mmol, 450 mg | O1C(COCC1)C1=CC=C(C=2N=C(SC21)N)OC | C12H14N2O3S
reactant | pyridine | 5.07 mmol, 0.41 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 2.20 mmol, 0.28 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (+)-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-carbamic acid phenyl ester | 630 mg, 96% | C1(=CC=CC=C1)OC(NC=1SC2=C(N1)C(=CC=C2C2OCCOC2)OC)=O | C19H18N2O5S
